US04346087
Into an apparatus similar to that in Example 1, were charged 104.2 g (1 mole) of N-hydroxyethylethylenediamine and 130.1 g (1 mole) of ethyl acetoacetate. At 150° to 160° C., 18 g of water and 46 g of ethanol were distilled off. Then, after addition of 200.3 g (1 mole) of lauric acid, the esterification was effected at 200° to 210° C. to distil off 18 g of water and to obtain 4-lauroyloxyethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | N-hydroxyethylethylenediamine | 1 mole, 104.2 g | OCCNCCN | C4H12N2O
reactant | ethyl acetoacetate | 1 mole, 130.1 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | lauric acid | 1 mole, 200.3 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
product | 4-lauroyloxyethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCC)(=O)OCCN1CCN=C(CC1=O)C | C20H36N2O3
